US04818766
A solution of 5.4 g (10 mmol) of 1,4-dihydro-2,6-dimethyl-4-(m-nitrophenyl)-pyridine-3,5-dicarboxylic acid 3-{2-[p-(2-amino-2-methylpropoxy)-phenoxy]-ethyl}-ester 5-methyl ester and 2.3 g (13 mmol) of 2-(2,3-epoxypropoxy)-benzonitrile in 30 ml of isopropanol is heated under reflux for 18 hours. After working up and chromatography analogously to Example 1, 1,4-dihydro-2,6-dimethyl-4-(m-nitrophenyl)-pyridine-3,5-dicarboxylic acid 3-{{{2-{{p-{2-[3-(o-cyanophenoxy)-2-hydroxypropylamino]-2-methylpropoxy}-phenoxy}}-ethyl}}}-ester 5-methyl ester is obtained in the form of an amorphous solid.

reactant | 1,4-dihydro-2,6-dimethyl-4-(m-nitrophenyl)-pyridine-3,5-dicarboxylic acid 3-{2-[p-(2-amino-2-methylpropoxy)-phenoxy]-ethyl}-ester 5-methyl ester | 10 mmol, 5.4 g | COC(=O)C=1C(C(=C(NC1C)C)C(=O)OCCOC1=CC=C(C=C1)OCC(C)(C)N)C1=CC(=CC=C1)[N+](=O)[O-] | C28H33N3O8
reactant | 2-(2,3-epoxypropoxy)-benzonitrile | 13 mmol, 2.3 g | O1C(COC2=C(C#N)C=CC=C2)C1 | C10H9NO2
solvent | isopropanol | 30 ml | C(C)(C)O | C3H8O
product | 1,4-dihydro-2,6-dimethyl-4-(m-nitrophenyl)-pyridine-3,5-dicarboxylic acid 3-{{{2-{{p-{2-[3-(o-cyanophenoxy)-2-hydroxypropylamino]-2-methylpropoxy}-phenoxy}}-ethyl}}}-ester 5-methyl ester | COC(=O)C=1C(C(=C(NC1C)C)C(=O)OCCOC1=CC=C(C=C1)OCC(C)(C)NCC(COC1=C(C=CC=C1)C#N)O)C1=CC(=CC=C1)[N+](=O)[O-] | C38H42N4O10
